US07902252B2
2.13. Synthesis of 4-methyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (4)
The title compound was synthesized from methyl 4-methyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate and lithium hydroxide monohydrate (17 mg, 0.40 mmol) according to General Procedure 7. The crude product was dried onto Silica gel and was purified by flash chromatography (0-80% EtOAc/Heptane) to give 8.6 mg of 4-methyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (4) as a light yellow solid (52%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.17 (d, J=6.78 Hz, 3H), 1.85-1.96 (m, 1H), 2.56-2.77 (m, 3H), 2.95-3.06 (m, 1H), 6.59 (s, 1H); LCMS-MS (ESI+) 166.0 (M+H); HPLC (UV=100%).

reactant | methyl 4-methyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | CC1CCC=2NC(=CC21)C(=O)OC | C10H13NO2
reactant | lithium hydroxide monohydrate | 0.40 mmol, 17 mg | O.[OH-].[Li+]
product | 4-methyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 8.6 mg, 52% | CC1CCC=2NC(=CC21)C(=O)O | C9H11NO2
